US07488832B2
Preparation of (2-[2-(1-adamantyl)-5-phenyl-1H-pyrrol-1-yl]-N-{(1Z)-amino[(ethyl-sulfonyl)amino]methylene}acetamide)
A solution of 1 equivalent of N-[2-(2-adamantan-1-yl-5-phenyl-pyrrol-1-yl)-acetyl]-guanidine in 2.0 mL CH2Cl2 was cooled to 7° C. To the solution 1.0 equivalent of triethylamine was added. The reaction was stirred for 10-15 minutes, after which time ethylsulfonyl chloride was added. The reaction was concentrated and the residue is dissolved in a mixture of DMSO, MeOH and water (1.5 mL total) and purified by Gilson preparative HPLC system. HPLC conditions: YMC Pro C18 column, 20 mm×50 mm ID, 5 uM; 2 mL injection; Solvent A: Water (0.05% NH4OH buffer); Solvent B: acetonitrile (0.05% NH4OH buffer); Gradient: Time 0: 5% B; 2 min: 5% B; 12 min: 95% b, Hold 95% B 3 min; Flow rate 22.5 mL/min; Detection: 254 nm DAD. [M+H] 469, retention time 2.7 min.

reactant | N-[2-(2-adamantan-1-yl-5-phenyl-pyrrol-1-yl)-acetyl]-guanidine | 1 equivalent | C12(CC3CC(CC(C1)C3)C2)C=2N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(=N)N | C23H28N4O
reactant | triethylamine | 1.0 equivalent | C(C)N(CC)CC | C6H15N
reactant | ethylsulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(1-adamantyl)-5-phenyl-1H-pyrrol-1-yl]-N-{(1Z)-amino[(ethyl-sulfonyl)amino]methylene}acetamide | C12(CC3CC(CC(C1)C3)C2)C=2N(C(=CC2)C2=CC=CC=C2)CC(=O)\N=C(/NS(=O)(=O)CC)\N | C25H32N4O3S
